US04288447
Preparation of 4-(2-Chloroethyl)-1-ethyl-2-imino-3-phenylimidazolidine Hydrochloride
To 250 ml of phosphorus oxychloride was added 95.6 g (0.378 mole) of 4-(2-chloroethyl-1-ethyl-2-oxo-3-phenyl imidazolidine and the mixture stirred at 70°-100° C. for 3.5 hours and concentrated on the rotary evaporator, yielding an oil. The oil was added to approximately 500 ml of liquid ammonia and stirred while the ammonia was allowed to evaporate. The residue was partitioned between chloroform and dilute NaOH. The chloroform layer was concentrated and the residue dissolved in isopropyl ether. The isopropyl ether was treated with carbon black and filtered. The ether was made acidic with ethereal HCl and the resulting precipitate was collected by decanting the ether. The residue was crystallized from isopropyl alcohol and isopropyl ether. Yield 61 g (56%); m.p. 175°-177° C. Analytical sample recrystallized from isopropyl alcohol and isopropyl ether; m.p. 176°-177.5° C.

reactant | phosphorus oxychloride | 250 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-chloroethyl-1-ethyl-2-oxo-3-phenyl imidazolidine | ClCCC1N(C(N(C1)CC)=O)C1=CC=CC=C1 | C13H17ClN2O
reactant | ammonia | N | H3N
product | 4-(2-Chloroethyl)-1-ethyl-2-imino-3-phenylimidazolidine Hydrochloride | Cl.ClCCC1N(C(N(C1)CC)=N)C1=CC=CC=C1 | InChI=1S/C13H18ClN3.ClH/c1-2-16-10-12(8-9-14)17(13(16)15)11-6-4-3-5-7-11;/h3-7,12,15H,2,8-10H2,1H3;1H
